US04936892
250 g (0.71 mol) of 5-amino-4-ethoxycarbonyl-1-(2-chloro-6-fluoro-4-trifluoromethylphenyl)-pyrazole are heated in 650 ml of 50% strength aqueous sulphuric acid at 120° C. for 2 hours, during which the volatile constituents distil off. The mixture is heated at 115° C. to 120° C. for a further 5 hours and then cooled, 3 l of ice-water are added, the pH is adjusted to 8 to 9 using aqueous sodium hydroxide solution, and the precipitate formed is filtered off, washed with water and dried in vacuo at 50° C. 163 g (82% of theory) of 5-amino-1-(2-chloro-6-fluoro-4-trifluoromethylphenyl)-pyrazole of melting point 87°-90° C. are obtained.

reactant | 5-amino-4-ethoxycarbonyl-1-(2-chloro-6-fluoro-4-trifluoromethylphenyl)-pyrazole | 0.71 mol, 250 g | NC1=C(C=NN1C1=C(C=C(C=C1F)C(F)(F)F)Cl)C(=O)OCC | C13H10ClF4N3O2
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
product | 5-amino-1-(2-chloro-6-fluoro-4-trifluoromethylphenyl)-pyrazole | 163 g, 82% | NC1=CC=NN1C1=C(C=C(C=C1F)C(F)(F)F)Cl | C10H6ClF4N3
